US04244963
1-[2-(Propylsulfonyl)-2-propenyl]-4-piperidinol
In a 1 l. 3-neck round bottom flask, under a nitrogen atmosphere, 13 g. (0.078 mole) of n-propylsulfonylacetic acid was dissolved in 75 ml. of dioxane. There was then added with good stirring a solution of 7.89 g. (0.078 mole) of 4-hydroxypiperidine in 75 ml. of dioxane and 5 ml. of water (obtained by warming to 40° C.). The almost clear solution was kept at 30° C. and over a 10 minute period 12.7 g. of a 37% aqueous formaldehyde solution (0.156 mole) was dripped in. After complete addition there was gradual warming of the reaction mixture to 50° C. with carbon dioxide evolution. The temperature rose to 57° C. with vigorous gas evolution; and the reaction mixture was maintained at 57° C. for 4 hours, followed by stirring for 12 hours at 20°-25° C. The solvents were removed in vacuo; the residual oil was taken up in methylene chloride, washed well with water, dried over anhydrous sodium sulfate, again concentrated, then taken up in ether (120 m.), washed twice with 10 ml. of water, dried over anhydrous sodium sulfate; and the solvent was removed to leave 7 g. of the product as an oil.

reactant | n-propylsulfonylacetic acid | 0.078 mole | C(CC)S(=O)(=O)CC(=O)O | C5H10O4S
reactant | 4-hydroxypiperidine | 0.078 mole | OC1CCNCC1 | C5H11NO
reactant | formaldehyde | 0.156 mole | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[2-(Propylsulfonyl)-2-propenyl]-4-piperidinol | C(CC)S(=O)(=O)C(CN1CCC(CC1)O)=C | C11H21NO3S
